.SUBCKT LT1764_15  4  5  3  1  2  
XLT1764   4  5  3  1  2  LT176415
** nested subcircuit: LT176415
.SUBCKT LT176415  1  2  3  5  8
*
*********************
* power section
*********************
*
* pass transistor
QPWR 51 54 52 Q1
RBASE 54  84  5.0E3
*
* current limiter with SOA protection
VSENS  8 52 DC -0.05
FCL1 0 60  VSENS  0.0165
RSENS  68  0  1.0E3
FSENS 0 68 VSENS  1.0E-3
RCL1 60 0 10
GCL0 0 60 POLY(2) 68 0 65 0 0 0 0 0 0 0 0 0 24.2E-5
DCL1 60 61 DX
VCL1 61 0 DC 0
GCL1 0 63  POLY(1) 8  1  -5.4E-3  1.0E-3
RCL2  0 63 1.0E3
DCL2 63 64 DX
RCL3 64  0 50E3
GCL2 0 65 POLY(1) 64  0  0 0 1.0E-4
RCL4 65  0 1.0E3
DCL3 65 66 DX
VCL2 66 0 DC 16.7
FCL2  90 3 VCL1 1.0
*
* temperature dependent dropout voltage
RDROP 51 55  RVD  0.005  
*
* quiescent current 
GQC  8  3  80  3  3.3E-4
GQCP  8  3  54  84  5.05E-3
*
* load dependent ground pin current
GGPC1 8 3 POLY(3)  68  0  42  0  46  3  0  0  -4.02E-7  0  1.1E-2  0  0  0  0  0  0  0  -3.1E-4
GGPC2  3  45 POLY(1) 8  2  0.0E-3  1.0E-3
RGPC1 45 3 1.0E3
DGPC1 45 46 DX
RGPC2 46 3 1.0E5
*
* reverse input  protection
ERVP1  40 0 8 3 1.0
DRVP1 40 41 DX
RRVP1 41 42 1.0E3
DRVP2 42 0 DX
RRVP2 42 0 1.0E4
*
* reverse input current
DRVP3 43 8 DX
RRVP3 43 3 1.9E5
*
* reverse output protection
SROP1  55  1   1  8  SROP1
*
********************
* error amplifier
********************
*
RF  2  80   483.3
RG  80  3  2.016E3
*
GEA1 3 81  80  90  0.9
REA1 81 3 1.0E4
CP1 81  82 1.0E-3
RP1  82 3  280

CFEED 84 88 1.5E-10
RFEED 88 90 5.0E1

GEA2  3  84  81  3  1.0E-4
REA2  84  3  1.0E4
EEAP  85 3  41 0 1.0
DEAP 84 85 DX
DEAN 86 84 DX
VEAN 86 3 DC 1.4
*
**************************** 
* voltage reference
****************************
*
* temperature dependent 1.21V reference
IREF1 3 90 DC 1.2094E-3
RREF1 90 3  RVR 1.0E3 
FLOAD 90 3  VSENS  5.75E-7
*
**************************** 
* noise voltage 
****************************
IR5 0 601 DC 1
IR6 0 602 DC 1
DR5 601 0 DRI
DR6 602 0 DRI
GR3 90  3  601 602 1.98
*
***************************
* shutdown section
***************************
*
* shdn bias current
GSB 3 70 POLY(2) 42 0 5 3 0 0 0 0 1.33E-3
RSB 70 3 1.0E3
DSB 3 70 DIC 
GSHDN 5 3 70 3 5.58E-7
*
* schmitt trigger, trip points 0.75V / 0.9V
GSD1 3 71 72  5 1.0E-1
RSD1 71 3 1.0E4
CSD1 71 3 2.2E-9
DSDP2 71 73 DTT
VSDP2 73 3 DC 1.8
DSDN2 74 71 DTT
VSDN2 74 3 DC -1.8
GTV1 3 72 POLY(1)  71  3  8.24E-4   2.98E-5
RTV1 72 3 1.0E3
SSHDN  90  3   71  3  SHDN
*
***********************
* models used
***********************
.MODEL DX D IS=8.2592e-016  RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0
.MODEL DIC D IS=8.0000E-013 BV=5.0 RS=0 XTI=0
.MODEL DAC D IS=8.0000E-013 BV=6.3 RS=0 XTI=0
.MODEL DTT D IS=8.0000E-016  RS=0 XTI=1 IBV=1.0E-10 TT=8.3E-6
.MODEL DRI D (IS=8.2592e-016 KF=3.2074e-019 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
*
.MODEL RVD RES (TC1=48.8E-3)
.MODEL RVR RES (TC1=-8.2E-5)
.MODEL REA RES (TC1=2.5E-3)
*
.MODEL SROP1  VSWITCH (RON=0.001  ROFF=1.0E8  VON=0.0  VOFF=0.1)
.MODEL SHDN  VSWITCH (RON=0.01  ROFF=1.0E8  VON=01.0   VOFF=-1.0)
*
.MODEL Q1 PNP IS=1.0E-9  BF=12500 XTI=0 NF=1.0
************************
*
.ENDS LT176415
** end nested subcircuit: LT176415
.ENDS LT1764_15
